US08497397B2
(84a) Methyl 4-[2-(4-bromophenyl)ethoxy]benzoate
Methyl 4-hydroxybenzoate (1.09 g, 7.14 mmol), 2-(4-bromophenyl)ethanol (1.44 g, 7.14 mmol), and triphenylphosphine (2.06 g, 7.86 mmol) were dissolved in THF (44 mL), and then diethyl azodicarboxylate (3.57 mL, 40% toluene solution, 7.86 mmol) was added thereto while stirring under ice-cooling. The mixture was further stirred at room temperature for 2 days, and then the reaction solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, 19:1 to 9:1, v/v) to give 1.75 g of the title compound (white powder, yield: 73%).

reactant | Methyl 4-hydroxybenzoate | 7.14 mmol, 1.09 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 2-(4-bromophenyl)ethanol | 7.14 mmol, 1.44 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | triphenylphosphine | 7.86 mmol, 2.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 7.86 mmol, 3.57 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 44 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-[2-(4-bromophenyl)ethoxy]benzoate | 1.75 g, yield: 73% | BrC1=CC=C(C=C1)CCOC1=CC=C(C(=O)OC)C=C1 | C16H15BrO3
